US08461328B2
Cyclopentylacetic acid (0.532 ml, 4.24 mmol), diisopropylethylamine (1.5 ml, 8.50 mmol) and N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (0.89 g, 4.70 mmol) were added sequentially to a solution of 4-(5-amino-1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-4-ylamino)-piperidine-1-carboxylic acid tert-butyl ester (2.00 g, 4.00 mmol) in CH2Cl2 (60 ml) at 25° C. The reaction mixture was stirred for 9 h at 25° C., then was partitioned between 1.0 M HCl (125 ml) and CH2Cl2 (125 ml). The organic layer was dried over MgSO4, filtered, and the filtrate was concentrated under reduced pressure. Purification of the residue by column chromatography on silica gel (gradient: 0 to 8% CH3OH in CH2Cl2) afforded 4-[1-benzenesulfonyl-5-(2-cyclopentyl-acetylamino)-1H-pyrrolo[2,3-b]pyridin-4-ylamino]-piperidine-1-carboxylic acid tert-butyl ester (1.05 g, 40%) as an off-white solid. LCMS (Method G, ESI): RT=1.15 min, m+H=582.5. This material was used in the next step below without additional characterization.

reactant | Cyclopentylacetic acid | 4.24 mmol, 0.532 ml | C1(CCCC1)CC(=O)O | C7H12O2
reactant | diisopropylethylamine | 8.50 mmol, 1.5 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 4.70 mmol, 0.89 g | Cl.CN(CCCN=C=NCC)C
reactant | 4-(5-amino-1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-4-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | 4.00 mmol, 2.00 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=C2C(=NC=C1N)N(C=C2)S(=O)(=O)C2=CC=CC=C2 | C23H29N5O4S
solvent | CH2Cl2 | 60 ml | C(Cl)Cl | CH2Cl2
product | 4-[1-benzenesulfonyl-5-(2-cyclopentyl-acetylamino)-1H-pyrrolo[2,3-b]pyridin-4-ylamino]-piperidine-1-carboxylic acid tert-butyl ester | 1.05 g, 40% | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=C2C(=NC=C1NC(CC1CCCC1)=O)N(C=C2)S(=O)(=O)C2=CC=CC=C2 | C30H39N5O5S
